US07754727B2
A stirred mixture of 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (prepared as described in Tetrahedron Letters 2000, 3705-3708; 6.52 g, 21.1 mmol), 1-bromo-3-iodobenzene (4.05 mL, 31.8 mmol), bis-(triphenyl-phosphine)-palladium(II) chloride (892 mg, 1.27 mmol), K2CO3 (8.7 g, 63 mmol) and 1,1′-bis(diphenylphosphino)ferrocene (704 mg, 1.27 mmol) in 120 mL dimethylformamide is heated at 80° C. under argon for 14 h. The mixture is cooled to RT, dimethylformamide is removed in vacuo. After addition of brine, the aqueous layer is extracted three times with CH2Cl2. The combined organic extracts are dried (Na2SO4) and evaporated in vacuo. Flash chromatography of the residue (SiO2, hexane/ethyl acetate) affords 4-(3-bromo-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid t-butyl ester as a colourless viscous resin: MS 338.2/340.2 [M+H]+; retention time 8.01 min (HPLC, Nucleosil C18; 5→100% CH3CN in H2O within 8 min, then 100% CH3CN for 2 min).

reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 21.1 mmol, 6.52 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C16H28BNO4
reactant | 1-bromo-3-iodobenzene | 31.8 mmol, 4.05 mL | BrC1=CC(=CC=C1)I | C6H4BrI
reactant | K2CO3 | 63 mmol, 8.7 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 1.27 mmol, 704 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 4-(3-bromo-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC(=CC=C1)Br | C16H20BrNO2
